US06559145B2
Ethyl 2-methyl-5-oxo-5H-[1,3]thiazolo[3,2-a]pyrimidine-6-carboxylate [BK.1]
A mixture of 2-amino-5-methyl thiazole (1.14 g) and diethyl ethoxymethylenemalonate (2.16 g) is heated at 135° C. in xylene (20 mL) for 2 h allowing for removal of the ethanol product. After the solvent is removed, the mixture is suspended in diphenyl ether (10 mL). The mixture is then heated to reflux with removal of ethanol for 30 min. The reaction mixture is cooled to rt and hexanes (20 mL) is added. The resulting precipitate is filtered, washed with diethyl ether (2×10 mL) and dried to afford 2.1 g (86%) of the title compound as a tan solid. Physical characteristics: 1H NMR (DMSO) δ 8.61, 8.05, 4.25, 2.48, 1.28; MS (ESI+) m/z 239 (M+H)+.

reactant | 2-amino-5-methyl thiazole | 1.14 g | NC=1SC(=CN1)C | C4H6N2S
reactant | diethyl ethoxymethylenemalonate | 2.16 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl 2-methyl-5-oxo-5H-[1,3]thiazolo[3,2-a]pyrimidine-6-carboxylate | 2.1 g, 86% | CC1=CN2C(=NC=C(C2=O)C(=O)OCC)S1 | C10H10N2O3S
